US07378415B2
1-(6-Benzenesulfonyl-2,3-dihydro-benzo[1,4]oxazin-4-yl)-2-(4,5-dihydro-1H-imidazol-2-yl)-ethanone was prepared by treatment of 3-(6-benzenesulfonyl-2,3-dihydro-benzo[1,4]oxazin-4-yl)-3-oxo-propionitrile with HCl followed by ethylene diamine using the procedure described in Example 2. mp: 114-116.1° C.

reactant | 3-(6-benzenesulfonyl-2,3-dihydro-benzo[1,4]oxazin-4-yl)-3-oxo-propionitrile | C1(=CC=CC=C1)S(=O)(=O)C=1C=CC2=C(N(CCO2)C(CC#N)=O)C1 | C17H14N2O4S
reactant | HCl | Cl | ClH
reactant | ethylene diamine | C(CN)N | C2H8N2
product | 1-(6-Benzenesulfonyl-2,3-dihydro-benzo[1,4]oxazin-4-yl)-2-(4,5-dihydro-1H-imidazol-2-yl)-ethanone | C1(=CC=CC=C1)S(=O)(=O)C=1C=CC2=C(N(CCO2)C(CC=2NCCN2)=O)C1 | C19H19N3O4S
